US07763740B2
Analogously to example 12, tert-butyl 1-(2′-formyl-6′-methoxybenzyl)-3-methoxy-9,10-dioxo-9,10-dihydroanthracene-2-carboxylate was reacted with tert-butyl-(3-methoxymethoxypent-4-ynyloxy)dimethylsilane. After work-up by column chromatography on silica gel (CHCl3/EA 95:5), the addition product tert-butyl 6″-(tert-butyldimethylsilanyloxy)-1″-hydroxy-4″-methoxymethoxyhex-2″-ynyl]-6′-methoxybenzyl}-3-methoxy-9,10-dioxo-9,10-dihydroanthracene-2-carboxylic acid could be obtained in the form of a yellow oil (230 mg, 0.31 mmol, 75%).

reactant | tert-butyl 1-(2′-formyl-6′-methoxybenzyl)-3-methoxy-9,10-dioxo-9,10-dihydroanthracene-2-carboxylate | C(=O)C1=C(CC2=C(C(=CC=3C(C4=CC=CC=C4C(C23)=O)=O)OC)C(=O)OC(C)(C)C)C(=CC=C1)OC | C29H26O7
reactant | tert-butyl-(3-methoxymethoxypent-4-ynyloxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC(C#C)OCOC | C13H26O3Si
product | 3-methoxy-9,10-dioxo-9,10-dihydroanthracene-2-carboxylic acid | COC=1C(=CC=2C(C3=CC=CC=C3C(C2C1)=O)=O)C(=O)O | C16H10O5
